US05852014
b) Ethyl 2-(5-chlorovalerylamino)Phenylacetate
A solution of ethyl 2-aminophenylacetate (5.60 g, 0.031 mole) and diisopropylethylamine (7.08 ml, 0.042 mole) in dry THF (75 ml) was treated with 5 chlorovaleryl chloride (4.00 ml, 0.031 mole) and left to stir for 1 h. The reaction mixture was concentrated in vacuo and the residue dissolved in ethyl acetate (200 ml) and washed with 1M HCl (100 ml), dried (Na2SO4) and concentrated in vacuo to afford a beige solid. This was washed with n-pentane/ether (1:1) and dried to afford the title compound as a light beige solid (8.1 g, 91%).

reactant | ethyl 2-aminophenylacetate | 0.031 mole, 5.60 g | NC1=C(C=CC=C1)CC(=O)OCC | C10H13NO2
reactant | diisopropylethylamine | 0.042 mole, 7.08 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chlorovaleryl chloride | 0.031 mole, 4.00 ml | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | Ethyl 2-(5-chlorovalerylamino)Phenylacetate | 8.1 g, 91% | ClCCCCC(=O)NC1=C(C=CC=C1)CC(=O)OCC | C15H20ClNO3
